US04975298
(a) Preparation of Benzyl Dimethyl Anilinium Hydroxide
A mixture of freshly distilled N,N-dimethyl aniline (52 ml, 0.41 mol) and benzyl chloride (47 ml, 0.41 mol) was allowed to stand for several days at room temperature. The separated crystals of benzyl dimethyl anilinium chloride were filtered and washed with anhydrous ether. The chloride salt (14.3 g, 0.054 mol) and silver oxide (13.4 g, 0.057 mol) were then stirred in anhydrous methanol (300 ml) for 2 hours and the solution filtered. The filtrate may be refrigerated for storage over a molecular sieve (type 3A).

reactant | N,N-dimethyl aniline | 0.41 mol, 52 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | benzyl chloride | 0.41 mol, 47 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | methanol | 300 ml | CO | CH4O
catalyst | silver oxide | 0.057 mol, 13.4 g | [Ag]=O
product | Benzyl Dimethyl Anilinium Hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C1=CC=CC=C1)(C)C | InChI=1S/C15H18N.H2O/c1-16(2,15-11-7-4-8-12-15)13-14-9-5-3-6-10-14;/h3-12H,13H2,1-2H3;1H2/q+1;/p-1
